US08349880B2
Step F (5): Iodomethane (1.04 mL, 16.67 mmol) was added to a solution of 1-(3-methoxy-4-(3-methyl-1H-1,2,4-triazol-1-yl)phenyl)thiourea (4.18 g, 15.87 mmol) in absolute ethanol (100 mL). The resulting mixture was heated at 70° C. for 3 h. After cooling to rt, the reaction was concentrated in vacuo. The residual volatiles were removed in high vacuo to afford methyl 3-methoxy-4-(3-methyl-1H-1,2,4-triazol-1-yl)phenylcarbamimidothioate, hydroiodide (6.52 g, 16.09 mmol, 101% yield) as a white solid. LC-MS (M+H)+ 278.1.

reactant | Iodomethane | 16.67 mmol, 1.04 mL | IC | CH3I
reactant | 1-(3-methoxy-4-(3-methyl-1H-1,2,4-triazol-1-yl)phenyl)thiourea | 15.87 mmol, 4.18 g | COC=1C=C(C=CC1N1N=C(N=C1)C)NC(=S)N | C11H13N5OS
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | methyl 3-methoxy-4-(3-methyl-1H-1,2,4-triazol-1-yl)phenylcarbamimidothioate, hydroiodide | 16.09 mmol, 6.52 g, 101% yield | I.COC=1C=C(C=CC1N1N=C(N=C1)C)NC(=N)SC | InChI=1S/C12H15N5OS.HI/c1-8-14-7-17(16-8)10-5-4-9(6-11(10)18-2)15-12(13)19-3;/h4-7H,1-3H3,(H2,13,15);1H
